US07465731B2
1H-NMR (300 MHz, CDCl3) δ 0.77-0.97 (2H, m), 1.05-1.30 (3H, m), 1.36 (3H, t, J=7.1 Hz), 1.40-1.86 (10H, m), 1.97-2.25 (3H, m), 2.37-2.64 (3H, m), 3.84-4.08 (1H, m), 4.30 (2H, q, J=7.1 Hz), 5.59 (1H, br peak), 6.35 (1H, d, J=8.4 Hz), 7.97 (1H, dd, J=8.6, 2.0 Hz), 8.74 (1H, d, J=2.0 Hz). Preparation 372 1) To a mixture of tert-butyl (3R)-3-pyrrolidinylcarbamate (1.00 g), 2,3-dimethylbenzaldehyde (720 mg), N,N-diisopropylethylamine (1.87 mL), and ethanol (10 mL) was added sodium triacetoxyborohydride (2.28 g). After stirring for 3 hours at room temperature, the reaction mixture was partitioned between ethyl acetate and saturated NH4Cl. The organic layer was washed with H2O, dried over MgSO4, filtered, and evaporated in vacuo. 2) To a mixture of above product and ethyl acetate (10 mL) was added 4N hydrogen chloride in ethyl acetate (8.40 mL) at 4° C. After stirring at room temperature for 5 hours, the reaction mixture was neutrized with saturated NaHCO3. The resulting mixture was evaporated in vacuo. The residue was added chloroform, dried over Na2SO4, filtered, and evaporated in vacuo to give (3R)-1-(2,3-dimethylbenzyl)-3-pyrrolidinamine (193 mg). 1H-NMR (300 MHz, CDCl3) δ 1.41-1.53 (1H, m), 2.12-2.46 (3H, m), 2.27 (3H, s), 2.29 (3H, s), 2.64-2.77 (2H, m), 3.42-3.51 (1H, m), 3.58 (2H, s), 7.00-7.14 (3H, m), MS (ES+) m/z 205 (M+1). Preparation 373

reactant | tert-butyl (3R)-3-pyrrolidinylcarbamate | 1.00 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 2,3-dimethylbenzaldehyde | 720 mg | CC1=C(C=O)C=CC=C1C | C9H10O
reactant | N,N-diisopropylethylamine | 1.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium triacetoxyborohydride | 2.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (3R)-1-(2,3-dimethylbenzyl)-3-pyrrolidinamine | 193 mg | CC1=C(CN2C[C@@H](CC2)N)C=CC=C1C | C13H20N2
